US03935214
B. 1-(4'-Chloro benzyl)-2-phenyl-4-(β-chloro ethyl) piperazine hydrochloride. ##SPC26##
24 g. of 1-(4'-chloro benzyl)-2-phenyl-4-(β-hydroxy ethyl) piperazine are dissolved in 150 cc. of chloroform and added drop by drop to a solution of 15 g. of thionyl chloride in 150 cc. of chloroform. The mixture is boiled under reflux for 5 hours and the solvent is removed in a vacuum by heating the mixture in a water bath. Excess of absolute ethanolic hydrochloric acid is added and the remaining acid is distilled off. The crystalline residue obtained is recrystallized from absolute ethanol. Melting point 178°-195° C. (dec.); yield 30 g.

reactant | 1-(4'-chloro benzyl)-2-phenyl-4-(β-hydroxy ethyl) piperazine | ClC1=CC=C(CN2C(CN(CC2)CCO)C2=CC=CC=C2)C=C1 | C19H23ClN2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(4'-Chloro benzyl)-2-phenyl-4-(β-chloro ethyl) piperazine hydrochloride | Cl.ClC1=CC=C(CN2C(CN(CC2)CCCl)C2=CC=CC=C2)C=C1 | InChI=1S/C19H22Cl2N2.ClH/c20-10-11-22-12-13-23(14-16-6-8-18(21)9-7-16)19(15-22)17-4-2-1-3-5-17;/h1-9,19H,10-15H2;1H
